US07429581B2
(iv) 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]4-(2,2,2-trifluoro-ethoxy)-1H-pyrazole-3,5-dicarboxylic acid 3-ethyl ester
To a solution of 400 mg 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-4-(2,2,2-trifluoro-ethoxy)-1H-pyrazole-3,5-dicarboxylic acid diethyl ester in 5 ml THF and 0.9 ml 1N NaOH were added. After standing for 16 h, the solution was acidified using 1 N HCl to pH 1. The precipitating product was collected by filtration and dried under reduced pressure. Yield: 142 mg.

reactant | 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-4-(2,2,2-trifluoro-ethoxy)-1H-pyrazole-3,5-dicarboxylic acid diethyl ester | 400 mg | C(C)OC(=O)C1=NN(C(=C1OCC(F)(F)F)C(=O)OCC)CC(NC1=NC=C(C=C1)Cl)=O | C18H18ClF3N4O6
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | NaOH | 1N, 0.9 ml | [OH-].[Na+]
product | 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]4-(2,2,2-trifluoro-ethoxy)-1H-pyrazole-3,5-dicarboxylic acid 3-ethyl ester | C(C)OC(=O)C1=NN(C(=C1OCC(F)(F)F)C(=O)O)CC(NC1=NC=C(C=C1)Cl)=O | C16H14ClF3N4O6
